US04496567
Equimolar amounts of 3-(3-(2-(dimethylamino)ethoxy)phenoxy)propylamine and 2 -nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone are heated under reflux in dry pyridine for 24 hours to give 2-[3-(3-(2-dimethylaminoethoxy)phenoxy)propylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone.

reactant | 3-(3-(2-(dimethylamino)ethoxy)phenoxy)propylamine | CN(CCOC=1C=C(OCCCN)C=CC1)C | C13H22N2O2
reactant | 2 -nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C11H11N5O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[3-(3-(2-dimethylaminoethoxy)phenoxy)propylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | CN(CCOC=1C=C(OCCCNC2=NC=C(C(N2)=O)CC=2C=NC(=CC2)C)C=CC1)C | C24H31N5O3
